US09227978B2
tert-Butyl-3-(4-(3-(5-bromo-4-chloro-2-methoxyphenyl)propanoyl)piperazin-1-yl)azetidine-1-carboxylate
To a stirred solution of 3-(5-bromo-4-chloro-2-methoxyphenyl)propanoic acid (350 mg, 1.2 mmol) in DMF (30 mL) at RT, tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate (317 mg, 1.3 mmol), BOP (731 mg, 1.4 mmol) and DIEA (461 mg, 3.6 mmol) were added and the mixture was stirred at RT for 1 h. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine and dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (285 mg, 46% yield).

reactant | 3-(5-bromo-4-chloro-2-methoxyphenyl)propanoic acid | 1.2 mmol, 350 mg | BrC=1C(=CC(=C(C1)CCC(=O)O)OC)Cl | C10H10BrClO3
reactant | tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate | 1.3 mmol, 317 mg | N1(CCNCC1)C1CN(C1)C(=O)OC(C)(C)C | C12H23N3O2
reactant | BOP | 1.4 mmol, 731 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 3.6 mmol, 461 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-Butyl-3-(4-(3-(5-bromo-4-chloro-2-methoxyphenyl)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 285 mg, 46% yield | C(C)(C)(C)OC(=O)N1CC(C1)N1CCN(CC1)C(CCC1=C(C=C(C(=C1)Br)Cl)OC)=O | C22H31BrClN3O4
